US06162808
i) 2-[[2-[1,1-Dimethylethoxycarbonylamino]thiazol-4-yl]acetylamino]-4 thiazoleacetic acid, ethyl ester
A solution of 2-[[1,1-Dimethylethoxy]carbonylamino]-4-thiazoleacetic acid (1.7 g) (Chem. Pharm. Bull. 1993, 41, 758), 2-amino-4-thiazoleacetic acid ethyl ester (1.35 g), 4-[dimethylamino]pyridine (0.8 g) and bromo-tris(pyrrolidino)phosphonium hexafluorophosphate (3.3 g) in dry dichloromethane (50 ml) was treated with diisopropylethylamine (2.4 ml). The mixture was stirred at room temperature for 16 hours. The reaction mixture was quenched with aqueous sodium bicarbonate and diluted with ethyl acetate. The organic solution was washed with brine and 2M HCl. The solution was dried (MgSO4) and evaporated under reduced pressure. Purification was by chromatography eluting with 30% ethyl acetate in isohexane. Yield 0.8 g.

reactant | 2-[[1,1-Dimethylethoxy]carbonylamino]-4-thiazoleacetic acid | 1.7 g | CC(C)(OC(=O)NC=1SC=C(N1)CC(=O)O)C | C10H14N2O4S
reactant | 2-amino-4-thiazoleacetic acid ethyl ester | 1.35 g | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
reactant | bromo-tris(pyrrolidino)phosphonium hexafluorophosphate | 3.3 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | diisopropylethylamine | 2.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | 4-[dimethylamino]pyridine | 0.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-[[2-[1,1-Dimethylethoxycarbonylamino]thiazol-4-yl]acetylamino]-4 thiazoleacetic acid, ethyl ester | CC(C)(OC(=O)NC=1SC=C(N1)CC(=O)NC=1SC=C(N1)CC(=O)OCC)C | C17H22N4O5S2
